### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplicialSet): paths and the strict segal condition

### PR DESCRIPTION
**Pull request by emilyriehl**
A path in a simplicial set `X` of length `n` is a directed path comprised of `n` 1-simplices.

An `n`-simplex has a maximal path, the `spine` of the simplex, which is a path of length `n`. A simplicial set `X` satisfies the `StrictSegal` condition if for all `n`, the map `X.spine n : X _[n] → X.Path n` is a bijection.

Examples of `StrictSegal` simplicial sets are given by nerves of categories. Future work will show these are the only examples: that a `StrictSegal` simplicial set is isomorphic to the nerve of its homotopy category.

Co-Authored-By: [Mario Carneiro](https://github.com/digama0) and [Joël Riou](https://github.com/joelriou) 

---

This version contains the 2-coskeletality proof at the back of the StrictSegal file. I'm happy to move that to
(a) a separate file, called SimplicialSet/2Coskeletal.lean?
(b) a separate file in a separate PR

Just let me know.
-->

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by emilyriehl** [comment]
@joelriou here is one of the breakout PRs you requested. I wasn't sure whether you wanted the proof of 2-coskeletality to live here or not. I'm happy to move it or cut it.

If we keep it here, then this is really the vast majority of the content of #16782, so most of the work of that PR is now here. On the other hand, this showcases which results about strict segal simplicial sets are used (relatively little).

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 1]
```diff
@@ -239,6 +265,17 @@ def mkOfLeComp {n} (i j k : Fin (n + 1)) (h₁ : i ≤ j) (h₂ : j ≤ k) :
...
 
+/-- The "inert" morphism associated to a subinterval `j ≤ i ≤ k` of `Fin (n + 1)`.-/
+def subinterval {n} (j l : ℕ) (hjl : j + l < n + 1) :
+    ([l] : SimplexCategory) ⟶ [n] :=
+  SimplexCategory.mkHom {
+    toFun := fun i => ⟨i.1 + j, (by omega)⟩
+    monotone' := by
+      intro i i' hii'
+      simp only [Fin.mk_le_mk, add_le_add_iff_right, Fin.val_fin_le]
+      exact hii'
```
Comment (mo271) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:276]:
```suggestion
    monotone' := fun i i' hii' => by simpa only [Fin.mk_le_mk, add_le_add_iff_right] using hii'
```

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 2]
```diff
@@ -466,6 +503,19 @@ lemma factor_δ_spec {m n : ℕ} (f : ([m] : SimplexCategory) ⟶ [n+1]) (j : Fi
       · rwa [succ_le_castSucc_iff, lt_pred_iff]
       rw [succ_pred]
 
+@[simp]
+lemma δ_zero_mkOfSucc {n : ℕ} (i : Fin n) :
+    δ 0 ≫ mkOfSucc i = SimplexCategory.const _ [n] i.succ := by
+  ext x
+  fin_cases x
+  aesop
```
Comment (mo271) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:511]:
```suggestion
  rfl
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Path.lean [hunk 3]
```diff
@@ -0,0 +1,85 @@
...
+  arrow i := f.arrow ⟨Fin.addNat i j, (by omega)⟩
+  arrow_src i := by
+    have eq := f.arrow_src ⟨Fin.addNat i j, (by omega)⟩
+    simp_rw [eq]
+    congr 1
+    apply Fin.eq_of_val_eq
+    simp only [Fin.coe_addNat, Fin.coe_castSucc, Fin.val_natCast]
+    have : i.1 + j < n + 1 := by omega
+    have : (↑i + j) % (n + 1) = i.1 + j := by exact Nat.mod_eq_of_lt this
+    rw [this]
```
Comment (mo271) [inline Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:56]:
```suggestion
    rw [f.arrow_src ⟨Fin.addNat i j, (by omega)⟩]
    congr
    refine Fin.eq_of_val_eq (Nat.mod_eq_of_lt ?_).symm
    omega
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Path.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+  arrow_tgt i := by
+    have eq := f.arrow_tgt ⟨Fin.addNat i j, (by omega)⟩
+    simp_rw [eq]
+    congr 1
+    apply Fin.eq_of_val_eq
+    simp only [Fin.coe_addNat, Fin.succ_mk, Fin.val_succ, Fin.val_natCast]
+    have : i.1 + 1 + j < n + 1 := by omega
+    have : (i.1 + 1 + j) % (n + 1) = i.1 + 1 + j := by exact Nat.mod_eq_of_lt this
+    rw [this, Nat.add_right_comm]
```
Comment (mo271) [inline Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:65]:
```suggestion
    rw [f.arrow_tgt ⟨Fin.addNat i j, (by omega)⟩]
    congr
    simp only [Fin.coe_addNat, Fin.val_succ, Nat.add_right_comm]
    refine Fin.eq_of_val_eq (Nat.mod_eq_of_lt ?_).symm
    omega
```

**Review by mo271 — COMMENTED** [review]
improving the structure of some proofs slighly

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 5]
```diff
@@ -0,0 +1,479 @@
...
+    simp only [mkHom, Equiv.invFun_as_coe, spine_vertex, Fin.coe_addNat]
+    simp only [← FunctorToTypes.map_comp_apply, ← op_comp]
+    simp only [const_comp, len_mk]
+    unfold subinterval
+    simp only [spineToSimplex_vertex]
+    congr 1
+    apply Fin.eq_of_val_eq
+    simp only [mkHom, Hom.toOrderHom_mk, OrderHom.coe_mk, Fin.val_natCast]
+    have : (i.1 + j) % (n + 1) = i.1 + j := by exact Nat.mod_eq_of_lt (by omega)
+    rw [this]
```
Comment (mo271) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:90]:
```suggestion
  · simp only [mkHom, Equiv.invFun_as_coe, spine_vertex, Fin.coe_addNat,
      ← FunctorToTypes.map_comp_apply, ← op_comp, const_comp, len_mk, spineToSimplex_vertex]
    congr
    exact Fin.eq_of_val_eq (Nat.mod_eq_of_lt (by omega)).symm
```

**Comment by emilyriehl** [comment]
@mo271 thanks for these suggestions. May I ask how you found the simpler proofs? As you can see, this was much more painful for me...

**Comment by mo271** [comment]
> @mo271 thanks for these suggestions. May I ask how you found the simpler proofs? As you can see, this was much more painful for me...

Really nothing special, I didn't use some special tool, just manual shuffling them around a bit.
One anti-pattern that was present here is the following:
```
have : long_statement := by exact short_proof_term
rw [this]
```
which can simply be replaced with 
```
rw [short proof term]
```

Another one is combining simps in one lines, so instead of 
```
simp only [foo]
simp only [bar]
simp only [baz]
```
just write
```
simp only [foo, bar, baz]
```

when it works. 

In general this pattern with lots of  `have` can often be streamlined using `convert`, `apply` or `refine`. However, I think one should keep the proof readable and don't overgolf them. 

One thing that is encouraged is to prefer simple tactics instead of more involved ones when possible, this is why I suggested to use `rfl` instead `aesop` in one place. Similarly, when `rw` works, I would prefer it over `simp only` or `simp`. But of course this presupposes knowing what tactics are more involved/expensive/powerful. 

I'm sure all these types of remarks are written down somewhere, but I looked a bit for a link and didn't find it.

**Comment by emilyriehl** [comment]
Thanks @mo271. I believe I understand all of this except the `convert` tactic, which is new to me. Googling took me to some discussion of `conv => lhs/rhs` which I have seen before. Were you referring to that or something else?

I have a vague memory that `convert` might be similar to `show` or `suffices`---two other tactics I haven't yet really figured out how to use...

**Comment by mo271** [comment]
I meant this: 
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Tactic/Convert.html#Mathlib.Tactic.convert

**Comment by emilyriehl** [comment]
@jcommelin I thought this might interest you. Following a suggestion of @joelriou, @digama0 and I refactored our proof that nerves of categories are 2-coskeletal through the strict segal condition (that the map from the n-simplex to the path of vertices along its spine is a bijection). It occurs to me that your proof that nerves of categories are quasi-categories could be refactored similarly (and I just suggested this to someone in hopes they would adopt your wombat PR).

File: Mathlib/AlgebraicTopology/SimplicialSet/Path.lean [hunk 6]
```diff
@@ -0,0 +1,78 @@
...
+  /-- The sources of the 1-simplices in a path are identified with appropriate 0-simplices.-/
+  arrow_src (i : Fin n) : X.δ 1 (arrow i) = vertex i.castSucc
+  /-- The targets of the 1-simplices in a path are identified with appropriate 0-simplices.-/
+  arrow_tgt (i : Fin n) : X.δ 0 (arrow i) = vertex i.succ
+
+
+variable {X} in
+/-- For `j ≤ k ≤ n`, a path of length `n` restricts to a path of length `k-j`, namely the subpath
+spanned by the vertices `j ≤ i ≤ k` and edges `j ≤ i < k`. -/
+def Path.interval {n : ℕ} (f : Path X n) (j l : ℕ) (hjl : j + l < n + 1) :
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:44]: Is there a particular reason you choose for `< n + 1`? Intuitively, I would have expected `≤ n`
```suggestion
def Path.interval {n : ℕ} (f : Path X n) (j l : ℕ) (hjl : j + l ≤ n) :
```

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:44]: @jcommelin I had similar instincts but I choose less than rather than less than or equal to to match the field used in `Fin n` namely `isLt : LT.lt val n`.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 7]
```diff
@@ -0,0 +1,156 @@
...
+A simplicial set `X` satisfies the `StrictSegal` condition if for all `n`, the map
+`X.spine n : X _[n] → X.Path n` is a bijection.
+
+Examples of `StrictSegal` simplicial sets are given by nerves of categories.
+
+TODO: Show that these are the only examples: that a `StrictSegal` simplicial set is isomorphic to
+the nerve of its homotopy category.
+
+`StrictSegal` simplicial sets have an important property of being 2-coskeletal which is proven
+elsewhere.
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:23]:
```suggestion
in `Mathlib.AlgebraicTopology.SimplicialSet.Coskeletal`.
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 8]
```diff
@@ -0,0 +1,156 @@
...
+/-- The diagonal of a simplex is the long edge of the simplex.-/
+def diagonal {n : ℕ} (Δ : X _[n]) : X _[1] := X.map ((mkOfDiag n).op) Δ
+
+namespace StrictSegal
+variable {X : SSet.{u}} [StrictSegal X] {n : ℕ}
+
+/-- In the presence of the strict Segal condition, a path of length `n` extends to an `n`-simplex
+whose spine is that path. -/
+noncomputable def spineToSimplex : Path X n → X _[n] :=
+  (Equiv.ofBijective _ (segal n)).invFun
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:51]:
```suggestion
noncomputable def spineToSimplex : Path X n → X _[n] :=
  (Equiv.ofBijective _ (segal n)).symm
```
You could even record that this is bijective in the type, by making it an equiv. That preserves a bit more structure, and when needed proofs of inj/surj/bij will be readily available.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 9]
```diff
@@ -0,0 +1,156 @@
...
+      simp only [len_mk, Nat.reduceAdd, mkHom, comp_toOrderHom, Hom.toOrderHom_mk, Fin.mk_one,
+        Fin.isValue, OrderHom.comp_coe, OrderHom.coe_mk, Function.comp_apply, Fin.succ_mk,
+        Fin.mk.injEq]
+      exact Nat.succ_add_eq_add_succ ↑i ↑j
+    rw [ceq]
+    simp only [spineToSimplex_spine_edge]
+
+@[simp]
+theorem spineToSimplex_edge (f : Path X n) (j l : ℕ) (hn : j + l < n + 1) :
+    X.map (mkOfLe ⟨j, (by omega)⟩ ⟨j + l, hn⟩ (Nat.le_add_right j l)).op (spineToSimplex f) =
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:104]: This hints that we might want to abstract `mkOfLe ⟨j, (by omega)⟩ ⟨j + l, hn⟩ (Nat.le_add_right j l)` into a definition `edge j l hn`. What do you think?

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 10]
```diff
@@ -0,0 +1,156 @@
...
+    unfold subinterval mkOfDiag mkOfLe
+    simp only [len_mk, Nat.reduceAdd, mkHom, Hom.toOrderHom_mk, OrderHom.coe_mk,
+      Fin.natCast_eq_last, comp_toOrderHom, OrderHom.mk_comp_mk, Function.comp_apply]
+    match e with
+    | 0 => simp
+    | 1 =>
+    apply Fin.eq_of_val_eq
+    simp only [Fin.isValue, Fin.val_last]
+    exact Nat.add_comm j l
+  rw [this]
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:122]: If you think it's natural, from a readability pov, you could restructure this as
```suggestion
  suffices mkOfLe ⟨j, (by omega)⟩ ⟨j + l, hn⟩ (Nat.le_add_right j l) =
      mkOfDiag l ≫ subinterval j l hn by
    rw [this]
  ext e : 3
  unfold subinterval mkOfDiag mkOfLe
  simp only [len_mk, Nat.reduceAdd, mkHom, Hom.toOrderHom_mk, OrderHom.coe_mk,
    Fin.natCast_eq_last, comp_toOrderHom, OrderHom.mk_comp_mk, Function.comp_apply]
  match e with
  | 0 => simp
  | 1 =>
  apply Fin.eq_of_val_eq
  simp only [Fin.isValue, Fin.val_last]
  exact Nat.add_comm j l
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 11]
```diff
@@ -0,0 +1,156 @@
...
+open Simplicial SimplexCategory
+
+namespace SSet
+
+variable (X : SSet.{u})
+
+/-- A simplicial set `X` satisfies the strict Segal condition if its simplices are uniquely
+determined by their spine. -/
+class StrictSegal : Prop where
+  segal : ∀ (n : ℕ), Function.Bijective (X.spine n)
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:39]: I don't have experience with this concept. Do you think it will be useful to make the inverse function (ie `spineToSimplex`) part of this class? Then the inverse would be computable, so people can play with defeqs.

But it also means that this is no longer a property, but data-carrying.

I have zero opinion on this, just wanted to hear your thoughts.

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 12]
```diff
@@ -0,0 +1,399 @@
...
+local notation (priority := high) "[" n "]" => SimplexCategory.mk n
+
+set_option quotPrecheck false
+local macro:max (priority := high) "[" n:term "]₂" : term =>
+  `((⟨SimplexCategory.mk $n, by decide⟩ : SimplexCategory.Truncated 2))
+
+/-- The object of `StructuredArrow (op [n]) (Truncated.inclusion (n := 2)).op` corresponding to the
+map [0] ⟶ [n] with image `i`. -/
+private
+def pt {n} (i : Fin (n + 1)) : StructuredArrow (op [n]) (Truncated.inclusion (n := 2)).op :=
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:50]: The full name of this definition is `SSet.pt`. That sounds a bit too generic to me...
Should it maybe be in the `StructuredArrow` namespace instead?

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean [hunk 13]
```diff
@@ -0,0 +1,399 @@
...
+  ext z; revert z
+  intro (0 : Fin 1)
+  unfold ar pt
+  simp only [StructuredArrow.mk_left, const_obj_obj, len_mk, StructuredArrow.mk_right, op_obj,
+    StructuredArrow.mk_hom_eq_self, Fin.isValue, op_map, Quiver.Hom.unop_op, unop_comp,
+    comp_toOrderHom, OrderHom.comp_coe, Function.comp_apply]
+  rfl
+
+private
+theorem ran.lift.arrow_src {X : SSet.{u}} {n} {i : Fin n}
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean:95]: What does `ran` refer to in this context? Is there some right Kan extension that isn't syntactically explicit in the type?

File: Mathlib/AlgebraicTopology/SimplicialSet/Path.lean [hunk 14]
```diff
@@ -0,0 +1,78 @@
...
+    rw [f.arrow_src ⟨Fin.addNat i j, (by omega)⟩]
+    congr
+    refine Fin.eq_of_val_eq (Nat.mod_eq_of_lt ?_).symm
+    omega
+  arrow_tgt i := by
+    rw [f.arrow_tgt ⟨Fin.addNat i j, (by omega)⟩]
+    congr
+    simp only [Fin.coe_addNat, Fin.val_succ, Nat.add_right_comm]
+    refine Fin.eq_of_val_eq (Nat.mod_eq_of_lt ?_).symm
+    omega
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:58]: The use of `Fin.addNat` is problematic here because it does not do exactly what we want and there are coercions flying around. The following straightforward code still works: 
```suggestion
  vertex i := f.vertex ⟨j + i, by omega⟩
  arrow i := f.arrow ⟨j + i, by omega⟩
  arrow_src i := f.arrow_src ⟨j + i, by omega⟩
  arrow_tgt i := f.arrow_tgt ⟨j + i, by omega⟩
```
And using `j + l ≤ n` as Johan and I suggested seems better.

**Comment by joelriou** [comment]
> @joelriou here is one of the breakout PRs you requested. I wasn't sure whether you wanted the proof of 2-coskeletality to live here or not. I'm happy to move it or cut it.
> 
> If we keep it here, then this is really the vast majority of the content of #16782, so most of the work of that PR is now here. On the other hand, this showcases which results about strict segal simplicial sets are used (relatively little).

My suggestion was to focus on the most basic properties, so that the main result in the `Coskeletal` file would come later in a separate PR.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 15]
```diff
@@ -239,6 +265,14 @@ def mkOfLeComp {n} (i j k : Fin (n + 1)) (h₁ : i ≤ j) (h₂ : j ≤ k) :
       | 0, 2, _ => Fin.le_trans h₁ h₂
   }
 
+/-- The "inert" morphism associated to a subinterval `j ≤ i ≤ k` of `Fin (n + 1)`.-/
+def subinterval {n} (j l : ℕ) (hjl : j + l < n + 1) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:269]: We may consider the `<` is a (necessary) implementation detail of `Fin`, but using `≤` is probably more convenient.
```suggestion
/-- The "inert" morphism associated to a subinterval `j ≤ i ≤ j + k` of `Fin (n + 1)`.-/
def subinterval {n} (j l : ℕ) (hjl : j + l ≤ n) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 16]
```diff
@@ -0,0 +1,156 @@
...
+  rw [StrictSegal.spineToSimplex_spine]
+  ext i
+  · simp only [mkHom, Equiv.invFun_as_coe, spine_vertex, Fin.coe_addNat,
+      ← FunctorToTypes.map_comp_apply, ← op_comp, const_comp, len_mk, spineToSimplex_vertex]
+    congr
+    exact Fin.eq_of_val_eq (Nat.mod_eq_of_lt (by omega)).symm
+  · unfold Path.interval
+    simp only [Equiv.invFun_as_coe, spine_arrow, Fin.coe_addNat]
+    simp only [← FunctorToTypes.map_comp_apply, ← op_comp]
+    have ceq : mkOfSucc i ≫ subinterval j l hjl = mkOfSucc ⟨i + j, (by omega)⟩ := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:87]: The statement and proof here should be an API lemma for `subinterval` in the `SimplexCategory` file.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 17]
```diff
@@ -0,0 +1,156 @@
...
+@[simp]
+theorem spineToSimplex_edge (f : Path X n) (j l : ℕ) (hn : j + l < n + 1) :
+    X.map (mkOfLe ⟨j, (by omega)⟩ ⟨j + l, hn⟩ (Nat.le_add_right j l)).op (spineToSimplex f) =
+      spineToDiagonal (Path.interval f j l hn) := by
+  unfold spineToDiagonal
+  rw [← congrArg diagonal (spineToSimplex_interval f j l hn)]
+  unfold diagonal
+  simp only [← FunctorToTypes.map_comp_apply, ← op_comp]
+  have : mkOfLe ⟨j, (by omega)⟩ ⟨j + l, hn⟩ (Nat.le_add_right j l) =
+      mkOfDiag l ≫ subinterval j l hn := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:111]: Similarly, you should extract a lemma `mkOfDiag_subinterval` from this.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 18]
```diff
@@ -0,0 +1,156 @@
...
+    X.map (mkOfSucc i).op (spineToSimplex f) = f.arrow i := by
+  rw [← spine_arrow, spineToSimplex_spine]
+
+
+/-- In the presence of the strict Segal condition, a path of length `n` can be "composed" by taking
+the diagonal edge of the resulting `n`-simplex. -/
+noncomputable def spineToDiagonal (f : Path X n) : X _[1] := diagonal (spineToSimplex f)
+
+@[simp]
+theorem spineToSimplex_interval (f : Path X n) (j l : ℕ) (hjl : j + l < n + 1)  :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:74]: It seems to me that this lemma could be deduced from the following lemma which holds for any simplicial set:
```lean
-- for SimplicialSet.Path.lean
lemma spine_map_subinterval {n : ℕ} (j l : ℕ) (hjl : j + l ≤ n) (x : X _[n]) :
    X.spine l (X.map (subinterval j l (by omega)).op x) =
      (X.spine n x).interval j l (by omega) := by
  sorry
```
Indeed, the proof would become:
```
... := by
  apply (segal _).injective
  rw [spine_map_subinterval X j l (by omega), spineToSimplex_spine, spineToSimplex_spine]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/Path.lean (hunk 6 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Path.lean:44]: Made this change.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 18 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:74]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (hunk 12 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean]: Noted, but now moved to a different PR (which I'll open after this is merged).

File: Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean (hunk 13 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/Coskeletal.lean]: Moved. Will try to improve comments in the new PR.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 10 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean]: Done (in the corresponding lemma).

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 17 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 19]
```diff
@@ -218,6 +231,10 @@ def mkOfLe {n} (i j : Fin (n+1)) (h : i ≤ j) : ([1] : SimplexCategory) ⟶ [n]
       | 0, 1, _ => h
   }
 
+/-- The morphism `[1] ⟶ [n]` that picks out the "diagonal composite" edge-/
+def mkOfDiag (n : ℕ) : ([1] : SimplexCategory) ⟶ [n] :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:235]: I am not sure `mkOfDiag` is the best name. What about `diag`?

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 20]
```diff
@@ -239,6 +265,54 @@ def mkOfLeComp {n} (i j k : Fin (n + 1)) (h₁ : i ≤ j) (h₂ : j ≤ k) :
...
 
+/-- The "inert" morphism associated to a subinterval `j ≤ i ≤ j + l` of `Fin (n + 1)`.-/
+def subinterval {n} (j l : ℕ) (hjl : j + l ≤ n) :
+    ([l] : SimplexCategory) ⟶ [n] :=
+  SimplexCategory.mkHom {
+    toFun := fun i => ⟨i.1 + j, (by omega)⟩
+    monotone' := fun i i' hii' => by simpa only [Fin.mk_le_mk, add_le_add_iff_right] using hii'
+  }
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:276]: We cannot have this as a simp lemma because `const_comp` is already a simp lemma.
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 21]
```diff
@@ -239,6 +265,54 @@ def mkOfLeComp {n} (i j k : Fin (n + 1)) (h₁ : i ≤ j) (h₂ : j ≤ k) :
...
+lemma const_subinterval_eq {n} (j l : ℕ) (hjl : j + l ≤ n) (i : Fin (l + 1)) :
+    [0].const [l] i ≫ subinterval j l hjl =
+    [0].const [n] ⟨j + i.1, lt_add_of_lt_add_right (Nat.add_lt_add_left i.2 j) hjl⟩  := by
+  unfold subinterval
+  have := const_comp [0] (subinterval j l hjl) i
+  convert this
+  unfold subinterval
+  simp only [len_mk, mkHom, Hom.toOrderHom_mk, OrderHom.coe_mk]
+  exact Nat.add_comm j i.1
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:285]:
```suggestion
  rw [const_comp] 
  congr
  ext
  dsimp [subinterval]
  rw [add_comm]
```

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:285]: Thank you. I thought this shouldn't be this hard.

**Comment by emilyriehl** [comment]
While you're here @joelriou do you have thoughts about @jcommelin's suggestion of making `StrictSegal` a typeclass with `spineToSimplex` as a structured equivalence? I was planning to implement this last, in case we want to undo.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 22]
```diff
@@ -239,6 +265,54 @@ def mkOfLeComp {n} (i j k : Fin (n + 1)) (h₁ : i ≤ j) (h₂ : j ≤ k) :
...
+  unfold subinterval mkOfSucc
+  apply Hom.ext_one_left
+  · simp only [len_mk, Nat.reduceAdd, mkHom, comp_toOrderHom, Hom.toOrderHom_mk,
+    OrderHom.mk_comp_mk, Fin.isValue, OrderHom.coe_mk, Function.comp_apply, Fin.coe_castSucc,
+    Fin.castSucc_mk, Fin.succ_mk, Fin.mk.injEq]
+    exact Nat.add_comm i.1 j
+  · simp only [len_mk, Nat.reduceAdd, mkHom, comp_toOrderHom, Hom.toOrderHom_mk,
+    OrderHom.mk_comp_mk, Fin.isValue, OrderHom.coe_mk, Function.comp_apply, Fin.val_succ,
+    Fin.castSucc_mk, Fin.succ_mk, Fin.mk.injEq]
+    exact Nat.add_comm (i.1 + 1) j
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:298]: _If_ the linter accepts this, it would be a good solution, and the same proof works for `mkOfDiag_subinterval_eq`:
```suggestion
  apply Hom.ext_one_left <;> simp <;> omega
```
(The only questionable thing with my syntax is that there is a nonterminal `simp`. I am not 100% sure whether `omega` is currently accepted as a followup to a plain `simp`.).

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 23]
```diff
@@ -0,0 +1,123 @@
...
+variable {X} in
+/-- The diagonal of a simplex is the long edge of the simplex.-/
+def diagonal {n : ℕ} (Δ : X _[n]) : X _[1] := X.map ((mkOfDiag n).op) Δ
+
+namespace StrictSegal
+variable {X : SSet.{u}} [StrictSegal X] {n : ℕ}
+
+/-- In the presence of the strict Segal condition, a path of length `n` extends to an `n`-simplex
+whose spine is that path. -/
+noncomputable def spineToSimplex : Path X n → X _[n] :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:50]: Since `StrictSegal` is a typeclass on `SSet`, `spineToSimplex` would rather be in the `SSet` namespace.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 19 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:235]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 24]
```diff
@@ -0,0 +1,123 @@
...
+  (Equiv.ofBijective _ (segal n)).invFun
+
+@[simp]
+theorem spineToSimplex_spine (f : Path X n) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:54]: The following name would be more consistent with the naming conventions:
```suggestion
theorem spine_spineToSimplex (f : Path X n) :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean [hunk 25]
```diff
@@ -0,0 +1,123 @@
...
+    X.spine n (StrictSegal.spineToSimplex f) = f :=
+  (Equiv.ofBijective _ (segal n)).right_inv f
+
+@[simp]
+theorem spineToSimplex_vertex (i : Fin (n + 1)) (f : Path X n) :
+    X.map (const [0] [n] i).op (spineToSimplex f) = f.vertex i := by
+  rw [← spine_vertex, spineToSimplex_spine]
+
+@[simp]
+theorem spineToSimplex_spine_edge (i : Fin n) (f : Path X n) :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:64]: The following name would be a little bit more coherent:
```suggestion
theorem spineToSimplex_arrow (i : Fin n) (f : Path X n) :
```

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 19 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 22 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:298]: Let's try it.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 24 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:54]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 25 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean:64]: done

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 9 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean]: Done. I've called this `intervalEdge` but please suggest a different name.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 11 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean]: Thanks. This was a great suggestion. The new code seems much cleaner to me. Let me know if I've implemented everything correctly.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 8 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean]: Now this is part of the strict Segal structure.

File: Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean (hunk 23 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/StrictSegal.lean]: Done, and in any case, this is now part of the strict Segal typeclass.

**Comment by emilyriehl** [comment]
I don't know what "Post PR summary comment / build" failure means.

**Comment by joelriou** [comment]
> While you're here @joelriou do you have thoughts about @jcommelin's suggestion of making `StrictSegal` a typeclass with `spineToSimplex` as a structured equivalence? I was planning to implement this last, in case we want to undo.

It seems a good idea!

**Comment by emilyriehl** [comment]
> > While you're here @joelriou do you have thoughts about @jcommelin's suggestion of making `StrictSegal` a typeclass with `spineToSimplex` as a structured equivalence? I was planning to implement this last, in case we want to undo.
> 
> It seems a good idea!

I like the change that resulted to `Nerve.strictSegal` (though it's still non-computable).

PS: I just reverted the `apply Hom.ext_one_left <;> simp <;> omega` which I think caused the build failure. If the CI agrees, then this version should be ready to review. (Apologies for removing the flag too early: the build failure didn't happen -- for some reason I don't understand -- until I bumped mathlib.)

**Comment by emilyriehl** [comment]
The recent mathlib bump caused a weird build error which broke the proofs of `mkOfSucc_subinterval_eq` and `diag_subinterval_eq`. I rewrote the proofs to something which compiles, but something weird seems to be going on.

Specifically the goal 
```
↑(match 0 with
      | 0 => i✝.castSucc
      | 1 => i✝.succ) +
    j =
  ↑(match 0 with
    | 0 => ⟨j + ↑i✝, ⋯⟩
    | 1 => ⟨j + ↑i✝ + 1, ⋯⟩)
```
does not simplify. Though I am able to `rw [add_comm]; rfl`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
